datasets/RMG-dataset.csv
rxn,Ea
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([O:9])([H:10])([H:11])[H:12]>>[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][O:9][C:8]([H:10])([H:11])[H:12],20.92
[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])([H:10])[H:11])([H:8])[H:9])[H:7])[H:6]>>[C:0]1([H:6])=[C:1]([H:7])[C:2]([H:8])([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([H:13])[H:14],17.1544
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])[H:7])([H:5])[H:6],17.0707
[C:3]([O:4][H:7])([H:5])[H:6].[N:0](=[O:1])[H:2]>>[H:2][C:3]([O:4][H:7])([H:5])[H:6].[N:0]=[O:1],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10]([C:11]([S:12][H:17])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11]([C:10]([H:13])([H:14])[H:15])([S:12][H:17])[H:16],56.484
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:27])([H:28])[H:29])=[C:16]([C:17]([H:30])([H:31])[H:32])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:16]([C:14]([C:13](=[C:12]([H:24])[H:25])[H:26])[C:15]([H:27])([H:28])[H:29])([C:17]([H:30])([H:31])[H:32])[c:18]1[c:19]([H:33])[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]1[H:37])[H:5],36.7355
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:11])[H:10])([H:8])[H:9].[C:18](=[C:19]([C:20]([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:13])[H:14])[H:12])[C:6](=[C:7]([H:16])[H:17])[H:15])([H:11])[C:20]([C:19](=[C:18]([H:23])[H:24])[H:25])([C:21](=[C:22]([H:28])[H:29])[H:27])[H:26])[H:10])([H:8])[H:9],56.3585
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[H:7])[H:6])[H:5].[C:11](=[C:12]([C:13]([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[H:7])([H:6])[C:13]([C:12](=[C:11]([H:17])[H:18])[H:19])([C:14]([H:20])([H:21])[H:22])[C:15](=[C:16]([H:24])[H:25])[H:23])[H:5],70.4586
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5](=[C:6]([H:15])[H:16])[H:14])[H:10])[H:9])([H:7])[H:8].[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])([C:5](=[C:6]([H:15])[H:16])[H:14])[C:17]([C:18]([H:21])([H:22])[H:23])([H:19])[H:20])[H:10])[H:9])([H:7])[H:8],18.6188
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([C:6]([C:7]([C:8]([H:19])([H:20])[H:21])[H:18])([H:16])[H:17])([H:14])[H:15])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[C:6]([H:16])([H:17])[C:7]1([C:8]([H:19])([H:20])[H:21])[H:18])[H:9],68.9523
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[O:6][O:7][H:8]>>[C:0]([O:1][O:6][O:7][H:8])([H:2])([H:3])[H:4].[H:5],343.153
[C:0]([C:1]([O:2][H:8])([S:3][H:9])[H:7])([H:4])([H:5])[H:6].[H:10]>>[C:0]([C:1]([O:2][H:8])[H:7])([H:4])([H:5])[H:6].[S:3]([H:9])[H:10],12.7612
[C:0]1([H:3])([H:4])[S:1][S:2]1.[C:5]([S:6])([H:7])([H:8])[H:9]>>[C:0]1([H:4])[S:1][S:2]1.[H:3][S:6][C:5]([H:7])([H:8])[H:9],48.57624
[C:0]([C:1]([C:2]([O:3][O:4])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:16])([C:5]([C:6]([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11],87.0272
[C:0]([H:1])([H:2])([H:3])[H:4].[N:5]=[C:6]=[O:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][N:5]=[C:6]=[O:7],34.0159
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([O:6][H:14])[c:7]1[H:15])([H:8])([H:9])[H:10].[O:16][H:17]>>[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([O:6])[c:7]1[H:15])([H:8])([H:9])[H:10].[H:14][O:16][H:17],0.0
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6](=[C:7]([H:20])[H:21])[C:8](=[C:9]([H:23])[H:24])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([C:8](=[C:9]([H:23])[H:24])[H:22])[C:7]1([H:20])[H:21])[H:12])([H:10])[H:11],54.5594
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[S:8]=[C:9]([C:10]([S:11][H:14])[H:13])[H:12]>>[C:0](#[C:1][C:2]=[C:3]([H:6])[H:7])[H:4].[H:5][C:10]([C:9](=[S:8])[H:12])([S:11][H:14])[H:13],169.703
[C:0](=[C:1][S:2][H:5])([H:3])[H:4].[C:6]([C:7]([S:8][H:15])([C:9](=[S:10])[H:16])[H:14])([H:11])([H:12])[H:13]>>[C:0](=[C:1]([S:2][H:5])[H:14])([H:3])[H:4].[C:6]([C:7]([S:8][H:15])[C:9](=[S:10])[H:16])([H:11])([H:12])[H:13],-52.3
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]([H:11])[H:12]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[S:10][H:12])([H:3])([H:4])[H:5].[H:11],77.404
